US07435744B2
2-(4-Benzyl-piperidin-1-yl)-N-(2-thioxo-2,3-dihydro-1H-benzoxazol-6-yl)-acetamide (45 70002447)
The title compound is prepared from (4-benzyl-piperidin-1-yl)-acetic acid hydrochloride and 6-amino-3H-benzoxazole-2-thione according to the method described in Example 161c. Melting Point: 183-184° C. (isopropanol)

reactant | (4-benzyl-piperidin-1-yl)-acetic acid hydrochloride | Cl.C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)O
reactant | 6-amino-3H-benzoxazole-2-thione | NC1=CC2=C(NC(O2)=S)C=C1 | C7H6N2OS
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-(4-Benzyl-piperidin-1-yl)-N-(2-thioxo-2,3-dihydro-1H-benzoxazol-6-yl)-acetamide | C(C1=CC=CC=C1)C1CCN(CC1)CC(=O)NC1=CC2=C(NC(O2)=S)C=C1 | C21H23N3O2S
